US09193935B2
2.13: (6E)-Dodeca-2,6-dienylbenzene
Starting from phenethyltriphenylphosphonium bromide (3.20 g, 7.15 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 4.5 mL, 7.15 mmol, 1.0 equiv.) and (E)-dec-4-enal (1.66 g, 10.7 mmol, 1.5 equiv.), 1.08 g (62%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | phenethyltriphenylphosphonium bromide | 7.15 mmol, 3.20 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 7.15 mmol, 1.6 M, 4.5 mL, 1.0 equiv. | [Li]CCCC
reactant | (E)-dec-4-enal | 10.7 mmol, 1.66 g, 1.5 equiv. | C(CC\C=C\CCCCC)=O | C10H18O
product | (6E)-Dodeca-2,6-dienylbenzene | 1.08 g, 62% | C(C=CCC\C=C\CCCCC)C1=CC=CC=C1 | C18H26
